US08877780B2
TEA (0.28 g, 2.8 mmol) was added to a mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.50 g, 1.4 mmol) and 3-chloro-4-methylphenyl isothiocyanate (0.26 g, 1.4 mmol) in acetonitrile (30 mL) at 0° C. The mixture was stirred at ambient temperature for 3 h and then 10% aqueous HCl solution (30 mL) was added. The solid precipitate was filtered and dried in vacuo providing 1-(3-chloro-4-methyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-thiourea as a white solid (0.52 g, 84% yield); mp 240-242° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 7.11 (97.48%); 1H NMR (DMSO-d6) δ 1.95-2.06 (m, 1H, CHH), 2.29 (s, 3H, CH3), 2.35-2.47 (m, 1H, CHH), 2.55-2.67 (m, 1H, CHH), 2.84-3.00 (m, 1H, CHH), 4.32 (d, 1H, CHH), 4.46 (d, 1H, CHH), 4.86 (d, J=5.1 Hz, 2H, CH, and CHH), 5.11 (dd, 1H, CH), 7.25 (dd, 1H, Ar), 7.28 (d, 1H, Ar), 7.47 (d, 1H, Ar), 7.54 (s, 1H, Ar), 7.61 (s, 1H, Ar), 7.70 (d, 1H, Ar), 8.37 (t, 1H, NH), 9.73 (s, 1H, NH), 11.00 (s, 1H, NH); 13C NMR (DMSO-d6) δ 18.96, 22.49, 31.20, 47.13, 51.58, 122.14, 122.88, 123.48, 127.13, 130.39, 130.97, 131.12, 132.67, 138.29, 142.27, 143.32, 167.92, 170.99, 172.86, 181.00; LCMS: MH=457/459; Anal. Calcd for C22H21ClN4O3S: C, 57.83; H, 4.63; N, 12.26. Found: C, 57.57; H, 4.51; N, 12.21.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 3-chloro-4-methylphenyl isothiocyanate | 1.4 mmol, 0.26 g | ClC=1C=C(C=CC1C)N=C=S | C8H6ClNS
reactant | HCl | 30 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-(3-chloro-4-methyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-thiourea | 0.52 g, 84% yield | ClC=1C=C(C=CC1C)NC(=S)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C22H21ClN4O3S
